US07465801B2
5-Ethyl-2-[2-oxo-(1,3,2)-dioxathiolan-4-yl]-pyridine (10)
4.98 mL (0.387 mol) triethylamine was added to a solution of 3 g (0.017 mol) 1-(5-ethyl-pyridin-2-yl)-ethan-1,2-diol dissolved in 60 mL dichloromethane at 0-5° C. To this 1.43 mL (0.019 mol) thionyl chloride was added drop wise in 15 min. and stirring was continued for 1 hr. Reaction mixture was quenched with 10% sodium bicarbonate solution. Product was extracted with dichloromethane, which was concentrated in vacuo to obtain titled product. Yield of the product was 3.44 g (90%).

reactant | triethylamine | 0.387 mol, 4.98 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(5-ethyl-pyridin-2-yl)-ethan-1,2-diol | 0.017 mol, 3 g | C(C)C=1C=CC(=NC1)C(CO)O | C9H13NO2
reactant | thionyl chloride | 0.019 mol, 1.43 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 5-Ethyl-2-[2-oxo-(1,3,2)-dioxathiolan-4-yl]-pyridine | C(C)C=1C=CC(=NC1)C1OS(OC1)=O | C9H11NO3S
